US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-1-fluoromethyl-3-methylxanthine
A solution of 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine (975 mg), sodium hydride (61 mg) and fluoromethyl bromide (121 mg) in DMF (10 ml) was stirred at 10° C. for 1 hour. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate =1:2) and recrystallized from ethyl acetate to provide the title compound as colorless solid (121 mg).

reactant | 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine | 975 mg | CN1C(NC(C=2N(C=NC12)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)=O)=O | C20H15ClN4O3
reactant | sodium hydride | 61 mg | [H-].[Na+]
reactant | fluoromethyl bromide | 121 mg | FCBr | CH2BrF
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-1-fluoromethyl-3-methylxanthine | 121 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)CF)=O)C)C=C2)C=C1 | C21H16ClFN4O3
